US04652563
6-[4-[3-[2-Hydroxy-3-[4-(2-(cyclopropylmethoxy)ethyl)phenoxy]propylamino]propionamido]phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone
In a manner similar to that of Example 1 (iv), 6-[4-[3-[2-hydroxy-3-[4-(2-(cyclopropylmethoxy)ethyl)phenoxy]-N-benzylpropylamino]propionamido]phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone (22 g) in ethanol (350 ml) was agitated for 5 hours in a hydrogen atmosphere at 344 kPa (50 p.s.i.) in the presence of palladium hydroxide on charcoal (5 g). The catalyst was removed by filtration and solvent removed under reduced pressure to afford the title compound as a yellow foam (15 g). To a solution of this in dichloromethane (800 ml) was added a solution of methanesulphonic acid (8.60 g) in dichloromethane (100 ml) with stirring. The mixture was evaporated under reduced pressure to give a yellow solid which was crystallised from isopropanol/ethanol (50:50; 400 ml) to yield the title compound as the monomethanesulphonate salt (16 g), m.p. 185°-6° C. Conversion of this material (from another run) by base formation and retreatment with methanesulphonic acid afforded material with m.p. 186°-7° C.

reactant | 6-[4-[3-[2-hydroxy-3-[4-(2-(cyclopropylmethoxy)ethyl)phenoxy]-N-benzylpropylamino]propionamido]phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 22 g | OC(CNCCC(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C)C(OC1=CC=C(C=C1)CCOCC1CC1)CC1=CC=CC=C1 | C36H44N4O5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 350 ml | C(C)O | C2H6O
catalyst | palladium hydroxide on charcoal | 5 g | [OH-].[OH-].[Pd+2]
product | 6-[4-[3-[2-Hydroxy-3-[4-(2-(cyclopropylmethoxy)ethyl)phenoxy]propylamino]propionamido]phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 15 g | OC(CNCCC(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C)COC1=CC=C(C=C1)CCOCC1CC1 | C29H38N4O5
